US07776897B2
7-Methoxy-3,4,5,6-tetrahydro-2H-azepine (0.5 ml) was added to a dioxane (20 ml) and toluene (15 ml) solution of 1-(3-chloro-4-methyl-2-thienyl)cyclopentane-carbohydrazide (800 mg), followed by stirring at 100° C. for 3 days. The reaction solution was subjected to evaporation under reduced pressure and the resulting crude product was purified by column chromatography (chloroform:methanol=40:1). The resulting solid was washed with hexane to obtain 770 mg of 3-[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepine (colorless solid).

reactant | 7-Methoxy-3,4,5,6-tetrahydro-2H-azepine | 0.5 ml | COC=1CCCCCN1 | C7H13NO
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 1-(3-chloro-4-methyl-2-thienyl)cyclopentane-carbohydrazide | 800 mg | ClC1=C(SC=C1C)C1(CCCC1)C(=O)NN | C11H15ClN2OS
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(3-chloro-4-methyl-2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepine | 770 mg | ClC1=C(SC=C1C)C1(CCCC1)C1=NN=C2N1CCCCC2 | C17H22ClN3S
